US07153855B2
To a cold (0° C.) solution of thionyl chloride (1 mL) was added solid d-(+)-biotin (100 mg, 0.41 mmol). The resulting mixture was warmed to room temperature and stirred for 1 hour. The excess thionyl chloride and other volatiles were removed under vacuum (<0.1 mm Hg) resulting in a solid residue. To this residue at 0° C. was added N,N-dimethylformamide (3 mL) followed by 2-(4-aminophenyl)-N-butyl-3-[2-(butylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine (70 mg, 0.16 mmol) in 2 mL of N,N-dimethylformamide. The resultant solution was stirred at room temperature for 1 hour at which time the reaction appeared to be complete by analytical methods. The solution was stirred an additional 72 hours. Ethyl acetate and saturated aqueous sodium bicarbonate were added and the layers separated. The organic layer was washed with brine. The aqueous layer was extracted with ethyl acetate and the combined organics were dried over sodium sulfate. Filtration and concentration followed by flash chromatography (8% methanol in dichloromethane) provided 5-[(3aS,4S,6aR)-2-oxohexahydro-1H-thieno[3,4-d]imidazol-4-yl]-N-(4-{7-(butylamino)-3-[2-(butylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)pentanamide (30 mg, 28%) as a yellow solid. 1H NMR (DMSO-d6): δ 10.00 (s, 1 H), 7.90 (d, 1 H), 7.66 (m, 3 H), 7.46 (d, 2 H), 7.29 (t, 1 H), 6.99–6.94 (m, 2 H), 6.40 (s, 1 H), 6.32 (s, 1 H), 6.11–6.09 (m, 2 H), 6.25 (m, 1 H), 4.09 (m, 1 H), 3.47–3.06 (m, 4 H), 2.77 (m, 1 H), 2.53 (m, 1 H), 2.44 (m, 1 H), 2.97 (m, 2 H), 1.62–1.27 (m, 14 H), 0.89–0.83 (m, 6 H); MS m/z 656 (M+1).

reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | d-(+)-biotin | 0.41 mmol, 100 mg | C1[C@H]2[C@@H]([C@@H](S1)CCCCC(=O)O)NC(=O)N2 | C10H16N2O3S
reactant | 2-(4-aminophenyl)-N-butyl-3-[2-(butylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | 0.16 mmol, 70 mg | NC1=CC=C(C=C1)C1=NN2C(C=CC=C2NCCCC)=C1C1=NC(=NC=C1)NCCCC | C25H31N7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[(3aS,4S,6aR)-2-oxohexahydro-1H-thieno[3,4-d]imidazol-4-yl]-N-(4-{7-(butylamino)-3-[2-(butylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)pentanamide | 30 mg, 28% | O=C1N[C@H]2[C@@H](N1)CS[C@H]2CCCCC(=O)NC2=CC=C(C=C2)C2=NN1C(C=CC=C1NCCCC)=C2C2=NC(=NC=C2)NCCCC | C35H45N9O2S
